US08183380B2
Step A: 4-Ethoxy-benzofuran-3-one oxime:
A mixture of 4-ethoxy-benzofuran-3-one (CAS no: 7169-36-0) (4.18 g, 23.5 mmol), sodium acetate (3.96 g, 48.3 mmol) and hydroxylamine hydrochloride (3.34 g, 48.1 mmol) in ethanol (30 mL) was refluxed for 16 h. Cooled to 23° C., diluted with water (50 mL), filtered the precipitate off, washed with water, ethanol and diethyl ether and dried in high vacuum to give the title compound as a white solid (4.2 g, 93%); MS: m/e=194.3 (M+H+).

reactant | 4-ethoxy-benzofuran-3-one | C(C)OC1=CC=CC2=C1C(CO2)=O | C10H10O3
reactant | sodium acetate | 48.3 mmol, 3.96 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 48.1 mmol, 3.34 g | Cl.NO
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | water | 50 mL | O | H2O
product | 4-Ethoxy-benzofuran-3-one oxime | 4.2 g, 93% | C(C)OC1=CC=CC2=C1C(CO2)=NO | C10H11NO3
